US05693630
8-(4-{Isopropyl-[2-(2-hydroxyphenyl)ethyl]amino}-butyl)-8-aza-spiro[4.5]decane-7,9-dione
8-(4-{Isopropyl-[2-(2-methoxyphenyl)ethyl]-amino}butyl)-8-aza-spiro[4.5]decane-7,9-dione (550 mg, 1.2 mmol) dissolved in 10 ml methylene chloride was cooled to -60° C. under nitrogen. Boron tribromide (0.28 ml, 2.9 mmol) in 3 ml methylene chloride was added in 20 min and the mixture stirred at 10° C. overnight, poured into 5 ml cold sodium hydrogen carbonate solution. The aqueous phase was treated with 1M ammonia and extracted with methylene chloride and the solvent evaporated to yield 410 mg of an oil.

reactant | 8-(4-{Isopropyl-[2-(2-methoxyphenyl)ethyl]-amino}butyl)-8-aza-spiro[4.5]decane-7,9-dione | 1.2 mmol, 550 mg | C(C)(C)N(CCCCN1C(CC2(CCCC2)CC1=O)=O)CCC1=C(C=CC=C1)OC | C25H38N2O3
reactant | Boron tribromide | 2.9 mmol, 0.28 ml | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
reactant | ammonia | 1M | N | H3N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 8-(4-{Isopropyl-[2-(2-hydroxyphenyl)ethyl]amino}-butyl)-8-aza-spiro[4.5]decane-7,9-dione | 410 mg | C(C)(C)N(CCCCN1C(CC2(CCCC2)CC1=O)=O)CCC1=C(C=CC=C1)O | C24H36N2O3
